US03975310
When the addition of the bromine derivative was completed, the mixture was refluxed for 45 minutes; then cooled to -10°, at which temperature 110 g. of β-cyclocitral dissolved in 410 ml. of tetrahydrofuran were introduced dropwise within 45 minutes. Stirring was continued for 1 hour at -5°, then overnight at room temperature under nitrogen. The reaction mixture was poured into a suspension of 0.5 kg. of crushed ice in 1.5 l. of a saturated ammonium chloride solution. It was extracted 3 times with ether, the extract were combined and washed 3 times with water and then with a concentrated NaCl solution. After drying over anhydrous Na2SO4 the volatile portions were evaporated and the residue distilled. There were thus obtained 91 g. (65.2 %) of cis-2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1-cyclohexene. B.p. 64°-68° /0.01 Torr. By replacing in the above procedure the β-cyclocitral by its analogue α, cis-2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]2-cyclohexene was obtained. 1700 ml. of absolute pyridine were cooled to 0°-5° and 154 g. of CrO3 were added portionwise within 30 minutes while stirring vigorously. Stirring was continued for 10 minutes at 5° and then 95 g. of cis-2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1-cyclohexene dissolved in 300 ml. of pyridine were added dropwise within 20 minutes, while maintaining the temperature below 10°. When the addition was completed stirring was continued for 20 minutes, then the mixture was allowed to stand for 15 hours at room temperature. The reaction mixture was diluted with 5 l. of water and extracted with 6 portions of 800 ml. of ether each. The extracts were combined and successively washed with: 4 portions of water, 8 portions of 10 % HCl at 0° , 3 portions of water, 2 portions of 5 % Na2CO3, 2 portions of water. Moreover, each washing portion was extracted with ether before being discarded, and the extract was added to the main extract after washing. The ethereal solution was dried over anhydrous Na2SO4, concentrated in vacuo and the residue distilled. There were thus obtained 57 g. of a liquid fraction, b.p. 75°-85° /0.001 Torr, which fraction was redistilled by means of a spinning band column and yielded 24 g, (25.5 %) of pure trans-2,6,6-trimethyl-1-crotonoyl-1-cyclohexene.

reactant | cis-2,6,6-trimethyl-1-[1-hydroxy-2-butenyl]-1-cyclohexene | CC1=C(C(CCC1)(C)C)C(\C=C/C)O | C13H22O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | trans-2,6,6-trimethyl-1-crotonoyl-1-cyclohexene | 25.5 % | CC1=C(C(CCC1)(C)C)C(\C=C\C)=O | C13H20O
